US07704995B2
3-Amino-6-(3-{[(5,7-difluoro-2,3-dihydro-1H-inden-1-yl)amino]methyl}phenyl)-N-ethylpyrazine-2-carboxamide:
The 3-Amino-6-[3-(bromomethyl)phenyl]-N-ethylpyrazine-2-carboxamide (100 mg, 1.0 eq) was dissolved in acetonitrile (5 mL) and treated with [(1S)-5,7-difluoro-2,3-dihydro-1H-inden-1-yl]amine (151 mg, 3.0 eq), diisopropylethylamine (62 mg, 1.6 eq) at ambient temperature. After being stirred for 8 h, the white suspension was concentrated in vacuo and purified by flash column chromatography to give the title compound as colorless oil, which was dissolved in ethyl acetate (10 mL) and treated 1M HCl in ether. The resulting precipitate was filtered, washed with ether (2×2mL), and dried to afford 42mg (12% yield) of 3-amino-6-(3-{[(5,7-difluoro-2,3-dihydro-1H-inden-1-yl)amino]methyl}phenyl)-N-ethylpyrazine-2-carboxamide hydrochloride as a yellow solid: 1H NMR (400 MHz, CD3OD): δ 8.71 (s, 1H), 8.22 (s, 1H), 8.13 (d, 1H), 7.57 (t, 1H), 7.51 (m, 1H), 7.06 (m, 1H), 6.98 (m, 1H), 5.08 (m, 1H), 4.38 (q, 2H), 3.45 (m, 2H), 3.39 (m, 1H), 3.05 (m, 1H), 2.84 (m, 1H), 2.53 (m, 1H); MS (FI) for C23H23NSOF2: 424.16 (MH+).

reactant | 3-Amino-6-[3-(bromomethyl)phenyl]-N-ethylpyrazine-2-carboxamide | 100 mg, 1.0 eq | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CBr)C(=O)NCC | C14H15BrN4O
reactant | [(1S)-5,7-difluoro-2,3-dihydro-1H-inden-1-yl]amine | 151 mg, 3.0 eq | FC=1C=C2CC[C@@H](C2=C(C1)F)N | C9H9F2N
reactant | diisopropylethylamine | 62 mg, 1.6 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-Amino-6-(3-{[(5,7-difluoro-2,3-dihydro-1H-inden-1-yl)amino]methyl}phenyl)-N-ethylpyrazine-2-carboxamide | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CNC1CCC2=CC(=CC(=C12)F)F)C(=O)NCC | C23H23F2N5O
